US07402684B2
(S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride:
A mixture of (S)-hexahydro-[1,2,3]oxathiazolo[3,4-a]pyridine 1,1-dioxide (83 mg, 0.47 mmol), 4-(4-chloro-phenoxy)-phenol (80 mg, 0.36 mmol), and potassium carbonate (99 mg, 0.72 mmol) in DMF (2.5 mL) was heated for 18 h at 65° C. The ambient mixture's pH was adjusted to 1 with an aqueous 20% H2SO4 solution and stirred at ambient temperature for about 20 h. The reaction solution's pH was adjusted to 12-14 with 5N NaOH, and extracted with EtOAc (2×18 mL). The organic layers were combined, dried over anhydrous Na2SO4, and concentrated to an oil. The oil was treated with 2M HCl in ether to give the desired product as a white solid (22 mg, 13%): MS; m/z 318 (MH)+; LCMS (UV) 99% HPLC 99.5%; 1H NMR (400 MHz, DMSO-d6) δ 1.50-1.88 (m, 6H), 2.90-2.97 (m, 1H), 3.25 (d, 1H, J=12.8 Hz), 3.42-3.47 (m, 1H), 4.09-4.13 (dd, 1H J1=7.2 Hz, J2=10.4 Hz), 4.17-4.21 (dd, 1H J1=4 Hz, J2=10.8 Hz)), 6.93-6.96 (m, 2H), 7.06-7.08 (m, 4H); 7.39-7.41 (m, 2H,) 9.155 (s, 2H)

reactant | (S)-hexahydro-[1,2,3]oxathiazolo[3,4-a]pyridine 1,1-dioxide | 0.47 mmol, 83 mg | S1(OC[C@H]2N1CCCC2)(=O)=O | C6H11NO3S
reactant | 4-(4-chloro-phenoxy)-phenol | 0.36 mmol, 80 mg | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | potassium carbonate | 0.72 mmol, 99 mg | C([O-])([O-])=O.[K+].[K+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaOH | 5N | [OH-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | (S)-2-[4-(4-Chloro-phenoxy)-phenoxymethyl]-piperidine hydrochloride | 22 mg, 13% | Cl.ClC1=CC=C(OC2=CC=C(OC[C@H]3NCCCC3)C=C2)C=C1 | InChI=1S/C18H20ClNO2.ClH/c19-14-4-6-17(7-5-14)22-18-10-8-16(9-11-18)21-13-15-3-1-2-12-20-15;/h4-11,15,20H,1-3,12-13H2;1H/t15-;/m0./s1
